US03948915
3.25 g of isopropyl cyanoacetimidate hydrochloride and 1.26 g of cyanamide were treated with the same manner as in Example 1 and 2.07 g of isopropyl N-cyanocyanoacetimidate was obtained (yield 68.5%) mp 66.5°C. Analysis calculated for C7H9N3O (%) C 55.62, H 6.00, N 27.80, found C 55.41, H 5.91, N 27.66.

reactant | isopropyl cyanoacetimidate hydrochloride | 3.25 g | Cl.C(#N)CC(OC(C)C)=N
reactant | cyanamide | 1.26 g | N#CN | CH2N2
product | isopropyl N-cyanocyanoacetimidate | 2.07 g, yield 68.5% | C(#N)N=C(CC#N)OC(C)C | C7H9N3O
